US04709047
Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-[2'-(2"-hydroxyethoxy)ethyl]imide
120 g of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride are reacted with 67.9 g of diglycolamine at 140° C., the reaction mixture is heated to 200° C. and the pressure is lowered to 10.6 Pa, affording 142.6 g of a yellow oil with a viscosity of 1.55 Pa.s at 25° C. and an n25D of 1.5230.

reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride | 120 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | diglycolamine | 67.9 g | C(COCCO)N | C4H11NO2
product | Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-[2'-(2"-hydroxyethoxy)ethyl]imide | 142.6 g | OCCOCCN=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C | C16H23NO5
